US20010049385A1
5-(2-Chloro-5-trifluoromethylbenzyloxymethyl)-4,5,6,7-tetrahydro-1H-benzimidazole
A solution of a mixture of 5-(2-chloro-5-trifluoromethylbenzyloxymethyl)-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole and 5-(2-chloro-5-trifluoromethylbenzyloxymethyl)-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole in a mixture of acetic acid (5 ml) and water (0.6 ml) was heated to 90° C. for 2 hours. The reaction mixture was cooled to room temperature. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using a mixture of DCM/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 310 mg of the title compound.

reactant | 5-(2-chloro-5-trifluoromethylbenzyloxymethyl)-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole | ClC1=C(COCC2CC3=C(N(C=N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC2)C=C(C=C1)C(F)(F)F | C35H30ClF3N2O
reactant | 5-(2-chloro-5-trifluoromethylbenzyloxymethyl)-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole | ClC1=C(COCC2CC3=C(N=CN3C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC2)C=C(C=C1)C(F)(F)F | C35H30ClF3N2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.6 ml | O | H2O
product | 5-(2-Chloro-5-trifluoromethylbenzyloxymethyl)-4,5,6,7-tetrahydro-1H-benzimidazole | 310 mg | ClC1=C(COCC2CC3=C(NC=N3)CC2)C=C(C=C1)C(F)(F)F | C16H16ClF3N2O
